US07459556B2
Step 3: [Bis(2-chlorophenyl)methyl]amine hydrochloride
Under N2, 1,1′-(bromomethylene)bis(2-chlorobenzene) (110 g, 0.35 mol) was dissolved in CH3CN (550 ml) at 20 to 25° C. Over 30 min, gaseous ammonia (28.5 g, 1.7 mol) was passed into the solution at 20 to 25° C. (slight cooling is necessary). The mixture was heated in an autoclave to 93 to 96° C. for 3 h at a pressure of 6 bar. The mixture was stirred at 93 to 96° C. and the reaction was followed by HPLC. After complete reaction (10 to 14 h), the mixture was cooled to 20-25° C. and degassed. The suspension was concentrated under vacuum at 45 to 50° C. to a volume of 140 ml. Water (330 ml) was added and the mixture was concentrated again to a volume of 330 ml. To the residue, TBME (550 ml) was added and the phases were separated. The aqueous layer was extracted with TBME (110 ml). The combined organic phases were washed with water (110 ml, then 55 ml). The organic layer was evaporated to dryness at 45 to 50° C. and co-evaporated with ethanol (165 ml). Ethanol (330 ml) was added to the residue and the suspension was filtered after 30 min at 0 to 5° C. The solid was washed with ethanol (55 ml) and the combined filtrates were concentrated at 45 to 50° C. to a volume of 160 ml. The residue was added over 60 min to a mixture of water (960 ml) and conc. HCl (56 ml) at 0 to 5° C. The suspension was stirred for 2 h at 0 to 5° C. and filtered. The product was washed with 55 ml cold water (0 to 5° C.) and dried in vacuum at 50° C. to constant weight. Yield: 81.1 g (81%). Assay (HPLC): 100% pure vs. standard

reactant | 1,1′-(bromomethylene)bis(2-chlorobenzene) | 0.35 mol, 110 g | BrC(C1=C(C=CC=C1)Cl)C1=C(C=CC=C1)Cl | C13H9BrCl2
reactant | ammonia | 1.7 mol, 28.5 g | N | H3N
solvent | CH3CN | 550 ml | CC#N | C2H3N
product | [Bis(2-chlorophenyl)methyl]amine hydrochloride | Cl.ClC1=C(C=CC=C1)C(C1=C(C=CC=C1)Cl)N | InChI=1S/C13H11Cl2N.ClH/c14-11-7-3-1-5-9(11)13(16)10-6-2-4-8-12(10)15;/h1-8,13H,16H2;1H
